US04956465
Ethyl 1-cyclopropyl-7-(ethoxycarbonyl-isocyanomethyl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate
2.7 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate and 1.92 g of ethyl isocyanoacetate are initially introduced into 30 ml of dioxane. 1.91 g of potassium tert-butoxide are added and the mixture is heated to reflux for 3 hours. 0.39 g of potassium tert-butoxide is then added once more and the mixture is once more boiled for 2 hours. It is then diluted using water, acidified using HCl and the solid is isolated. After separation on silica gel (eluant CH2Cl2 /MeOH 95/5), 1.0 g of the title compound is obtained.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 2.7 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | ethyl isocyanoacetate | 1.92 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium tert-butoxide | 1.91 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.39 g | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Ethyl 1-cyclopropyl-7-(ethoxycarbonyl-isocyanomethyl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C([N+]#[C-])C(=O)OCC)F)=O)C(=O)OCC | C20H18F2N2O5
